US07825256B2
2-(3-Amino-[1,2,4]thiadiazol-5-yl)-pyrrolidine-1-carboxylic acid benzyl ester (9.40 g, 30.9 mmol) was dissolved in ethanol (80 mL), glyoxal (40% wt) (19.6 g, 101.4 mmol) was added to the reaction and the solution was refluxed to 3 hours. Ammonium chloride (7.80 g, 146 mmol) and calcium phosphate (11.0 g, 110 mmol) were added followed by subsequent addition of formalin (11.0 g of a 40% aqueous solution, 147 mmol) while the reaction was maintained at reflux for 16 hours. The solution was concentrated under vacuo. The crude residue was dissolved in water (20 mL) and washed with ethyl acetate (15 mL). The aqueous layer was basified to pH=9 with 1N NaOH. The aqueous layer was then extracted with ethyl acetate (2×100 mL). The organic layers were combined and concentrated under vacuo to afford 7.2 g (66%) of 2-(3-imidazol-1-yl-[1,2,4]thiadiazol-5-yl)-pyrrolidine-1-carboxylic acid benzyl ester as red oil.

reactant | 2-(3-Amino-[1,2,4]thiadiazol-5-yl)-pyrrolidine-1-carboxylic acid benzyl ester | 30.9 mmol, 9.40 g | C(C1=CC=CC=C1)OC(=O)N1C(CCC1)C1=NC(=NS1)N | C14H16N4O2S
reactant | glyoxal | 101.4 mmol, 19.6 g | C(=O)C=O | C2H2O2
reactant | Ammonium chloride | 146 mmol, 7.80 g | [Cl-].[NH4+]
reactant | calcium phosphate | 110 mmol, 11.0 g | P(=O)([O-])([O-])[O-].[Ca+2].P(=O)([O-])([O-])[O-].[Ca+2].[Ca+2]
reactant | formalin | C=O | CH2O
solvent | ethanol | 80 mL | C(C)O | C2H6O
product | 2-(3-imidazol-1-yl-[1,2,4]thiadiazol-5-yl)-pyrrolidine-1-carboxylic acid benzyl ester | 7.2 g, 66% | C(C1=CC=CC=C1)OC(=O)N1C(CCC1)C1=NC(=NS1)N1C=NC=C1 | C17H17N5O2S
